US07273865B2
To an ice-cooled stirred suspension of 2.70 g (6.20 mmol) 5-methoxy-2-phenyl-pyridin-4-ylamine in 3 ml distilled water was added dropwise 3 ml concentrated sulfuric acid and the mixture was then warmed to 100° C. 1.30 g (6.07 mmol) potassium iodate was added after 3 h, a further 1.30 g (6.07 mmol) potassium iodate was added after an additional 3 h, and finally a further 0.75 g (3.50 mmol) potassium iodate was added after an additional 3 h. Stirred was continued for a further 2.5 h at 100° C., and then the mixture was allowed to cool to room temperature on standing overnight. The mixture was then diluted with saturated brine, made basic by addition of 30% aq. sodium hydroxide solution, and extracted three times with tetrahydrofuran. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate/heptane) afforded 1.60 g (79%) 3-iodo-5-methoxy-2-phenyl-pyridin-4-ylamine as an orange oil which crystallized on standing. ES-MS m/e (%): 327 (M+H+, 100).

reactant | 5-methoxy-2-phenyl-pyridin-4-ylamine | 6.20 mmol, 2.70 g | COC=1C(=CC(=NC1)C1=CC=CC=C1)N | C12H12N2O
reactant | potassium iodate | 6.07 mmol, 1.30 g | I(=O)(=O)[O-].[K+]
reactant | potassium iodate | 6.07 mmol, 1.30 g | I(=O)(=O)[O-].[K+]
reactant | potassium iodate | 3.50 mmol, 0.75 g | I(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | brine | [Cl-].[Na+].O
product | 3-iodo-5-methoxy-2-phenyl-pyridin-4-ylamine | 1.60 g, 79% | IC=1C(=NC=C(C1N)OC)C1=CC=CC=C1 | C12H11IN2O
